US08476262B2
4-bromo-5-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrole-2-carbonitrile
To 4,4-dimethyl-6-(5-cyano-1H-pyrrol-2-yl)-1,4-dihydrobenzo[d][1,3]oxazin-2-one (0.625 g, 2.3 mmol, 1 eq) in THF (anhydrous, 60 mL) was added NBS (0.46 g, 2.5 mmol, 1.1 eq) at −78° C. After 1 hour, the reaction was warmed to room temperature, poured into water (100 mL) and extracted with ethyl acetate (2×100 mL). The organic layers were combined, washed with aqueous 10% sodium bisulfite solution (50 mL), water (50 mL) and brine (50 mL), dried over magnesium sulfate, filtered and concentrated in vacuo. Crystallization from 20% ethyl acetate/hexane gave the product (40 mg, 5%) as a white solid. The filtrate (0.5 g) was placed aside. 1H NMR (300 MHz, d6-DMSO): δ 1.64 (s, 6H), 6.98 (d, 1H, J=8.2 Hz), 7.19 (d, 1H, J=1.4 Hz), 7.57 (s, 1H), 7.62 (dd, 1H, J=1.4, 8.3 Hz), 10.43 (s, 1H), 12.91 (s, 1H). MS (ESI) [M−H]−m/z 344/346. Anal. calcd. for C15H12BrN3O2: C, 52.04; H, 3.49; N, 12.14. Found: C, 51.4; H, 3.57; N, 11.59.

reactant | 4,4-dimethyl-6-(5-cyano-1H-pyrrol-2-yl)-1,4-dihydrobenzo[d][1,3]oxazin-2-one | 2.3 mmol, 0.625 g, 1 eq | CC1(C2=C(NC(O1)=O)C=CC(=C2)C=2NC(=CC2)C#N)C | C15H13N3O2
reactant | NBS | 2.5 mmol, 0.46 g, 1.1 eq | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | 100 mL | O | H2O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 4-bromo-5-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrole-2-carbonitrile | 40 mg, 5% | BrC=1C=C(NC1C=1C=CC2=C(C(OC(N2)=O)(C)C)C1)C#N | C15H12BrN3O2
